US04638067
9-Fluoro-2,3-dihydro-3-methyl-10-(7-methyl-2,7-diazaspiro[4.4]non-2-yl)-7-oxo-7H-pyrido[1,2,3-de]1,4-benzoxazine-6-carboxylic acid
A suspension of 0.42 g (1.97 mmol) 2-methyl-2,7-diazaspiro[4.4]nonane dihydrochloride in 25 ml acetonitrile was treated with 0.85 g (5.80 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene and 0.52 g (1.85 mmol) 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de]1,4-benzoxazine-6-carboxylic acid was added. The mixture was stirred two hours at room temperature and then refluxed overnight. The product which crystallized on cooling was filtered, washed with acetonitrile and recrystallized from acetonitrile to afford 0.45 g of the title compound, mp 227°-230° C. (dec).

reactant | 2-methyl-2,7-diazaspiro[4.4]nonane dihydrochloride | 1.97 mmol, 0.42 g | Cl.Cl.CN1CC2(CC1)CNCC2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.80 mmol, 0.85 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de]1,4-benzoxazine-6-carboxylic acid | 1.85 mmol, 0.52 g | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 9-Fluoro-2,3-dihydro-3-methyl-10-(7-methyl-2,7-diazaspiro[4.4]non-2-yl)-7-oxo-7H-pyrido[1,2,3-de]1,4-benzoxazine-6-carboxylic acid | 0.45 g | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)N1CC3(CC1)CN(CC3)C | C21H24FN3O4
